US05541180
A mixture of 3.1 g (±)-N"-cyano-N-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]-N'-ethylguanidine in a solution of 10 ml hydrochloric acid in 2-propanol and 50 ml methanol was stirred and refluxed for 30 minutes. The solvent was evaporated. The residue was dissolved in water and this mixture was alkalized with aqueous NaOH (10% ). This mixture was extracted with CH2Cl2. The organic layer was separated, washed with water, dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH/(NH3) 90:10). The pure fractions were collected and the solvent was evaporated. The residue was dissolved in 2-propanol and converted into the hydrochloric acid salt (1:2) with 2-propanol saturated with HCl. The salt was filtered off and recrystallized from 2-propanol. The crystals were filtered off and dried, yielding 2.95 g (±)-N-[[[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]amino](ethylamino)methylene]urea dihydrochloride; mp. 182.2° C. (interm. 51).

reactant | (±)-N"-cyano-N-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]-N'-ethylguanidine | 3.1 g | C(#N)N=C(NCCCNCC1OC2=C(CC1)C=CC=C2)NCC | C17H25N5O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | 2-propanol | CC(C)O | C3H8O
solvent | methanol | 50 ml | CO | CH4O
product | (±)-N-[[[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]amino](ethylamino)methylene]urea dihydrochloride | 2.95 g | Cl.Cl.O1C(CCC2=C1C=CC=C2)CNCCCNC(=NC(=O)N)NCC | InChI=1S/C17H27N5O2.2ClH/c1-2-20-17(22-16(18)23)21-11-5-10-19-12-14-9-8-13-6-3-4-7-15(13)24-14;;/h3-4,6-7,14,19H,2,5,8-12H2,1H3,(H4,18,20,21,22,23);2*1H
